data/mechanisms/records/IMS8-EQ8.55b.json
{"mechanism_id": "IMS8-EQ8.55b", "species": [{"species_id": "ring_opened_allyl_distonic_ion", "mapped_smiles": "[CH2:3]=[CH:2][CH+:1][CH2:6][CH2:5][CH2:4]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "butadiene_radical_cation", "mapped_smiles": "[CH2:6][CH+:1][CH:2]=[CH2:3]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "ethylene_neutral", "mapped_smiles": "[CH2:4]=[CH2:5]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["ring_opened_allyl_distonic_ion"]}, {"state_id": "state_products", "species_ids": ["butadiene_radical_cation", "ethylene_neutral"]}], "steps": [{"step_id": "step_alpha_ethylene_loss", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [4]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 6]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 6]}, "target": {"type": "atom", "atom_maps": [6]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_alpha_ethylene", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_ethylene_loss", "support_type": "textbook_proposed", "locator": {"page": 181, "equation": "8.55", "figure": null, "panel": null, "section": "8.9 Decompositions of cyclic structures"}, "confidence": 0.85, "curator_note": "Equation 8.55, UPPER 'alpha' branch off the ring-opened distonic ion: the second half of the stepwise retro-Diels-Alder. Radical site C4 -> forming pi C4=C5 (the expelled neutral ethylene); one electron of the sigma C5-C6 -> that forming pi; the second electron of C5-C6 -> C6, so the charge-bearing four-carbon fragment leaves as the diene radical cation ('+ C2H4' is written next to it on the page). Book draws 0 arc(s) on this branch (only the 'alpha'-labelled arrow, the bracketed diene+. and '+ C2H4'); moves <1,2,3> are curator-supplied hooks required for electron balance, none of them drawn. The text above the scheme motivates the branch: 'This retro-Diels-Alder reaction now produces (Equation 8.55) a resonance stabilized diene+. in place of the olefin+. product of Equation 8.48, lowering the IE of the corresponding neutral by ~1 eV.' RESONANCE (convention C): the book draws the product as the fully conjugated butadiene radical cation CH2=CH-CH=CH2 in brackets with '+.'; the arrows as encoded produce the localised form .CH2-CH(+)-CH=CH2 (charge stays on C1, where the drawn allyl cation was localised in record IMS8-EQ8.55a; the odd electron lands on C6). Both are localisation/resonance forms of the same delocalised C4H6+. ion - a radical cation cannot be written with two intact pi bonds in RDKit-parseable SMILES."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 82.0777, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_c4h6", "species_id": "butadiene_radical_cation", "step_id": "step_alpha_ethylene_loss", "observed_mz": 54.0464, "relative_intensity": 0.8, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.8}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
